US09056865B2
Step 1: 2-chloro-4-(pyridin-2-yl)pyrimidine
To a solution of 2-chloropyrimidine (8.0 g, 50 mmol) in THF (100 mL) at −78° C., n-BuLi (24 mL, 60 mmol) was added dropwise under N2. After addition, the reaction solution was stirred for 30 min, a solution of 2-bromopyridine (5.75 g, 50 mmol) in THF (50 mL) was added in portions. The reaction mixture was stirred at −30° C. for 30 min and at 0° C. for 45 min., then quenched with AcOH (5 mL) and water (1 mL). A solution of DDQ (16.3 g, 80 mmol) in THF (50 mL) was added in portions and the mixture was stirred at room temperature for 45 min. TLC (petroleum:EtOAc=5:1) indicated the reaction was complete. The reaction mixture was cooled to 0° C. and 3N NaOH (142 mL) was added and stirred for 30 min. The aqueous layer was extracted with EtOAc (50 mL×3). The combined extract was dried over Na2SO4, concentrated and purified by chromatography, eluted with petroleum ether:EtOAc (10:1 to 5:1) to give title compound (4.8 g, 50%) as a light yellow solid.

reactant | 2-chloropyrimidine | 50 mmol, 8.0 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | n-BuLi | 60 mmol, 24 mL | [Li]CCCC
reactant | 2-bromopyridine | 50 mmol, 5.75 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | DDQ | 80 mmol, 16.3 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | NaOH | 3N, 142 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-4-(pyridin-2-yl)pyrimidine | 4.8 g, 50% | ClC1=NC=CC(=N1)C1=NC=CC=C1 | C9H6ClN3
